US03935314
2-(5-Nitrobenzimidazolyl)amino-2-imidazoline (12.80 g,) was dissolved in anhydrous dimethylformamide (200 ml) and hydrogenated at 50 psi and room temperature for 48 hours, over 5% palladium charcoal (500mgs). The filtered reaction mixture was evaporated under reduced pressure to yield 2-(5-aminobenzimidazolyl)amino-2-imidazoline (9.87g), characterised as the dihydrochloride (7.60g) (m.p. 285°C).

reactant | 2-(5-Nitrobenzimidazolyl)amino-2-imidazoline | 12.80 g | [N+](=O)([O-])C1=CC2=C(N=C(N2)NC=2NCCN2)C=C1 | C10H10N6O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | palladium charcoal | 500mgs | [Pd] | Pd
product | 2-(5-aminobenzimidazolyl)amino-2-imidazoline | 9.87g | NC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1 | C10H12N6
